US09113536B2
1-Phenyl-3,5-bis-[4-styryl-phenyl]-1H-[1,2,4]triazole
Styrene (1.72 g, 16.5 mmol), Pd(OAc)2 (0.080 g, 0.35 mmol), PPh3 (0.095 g, 0.36 mmol) and K2CO3 (2.0 g, 14.5 mmol) are added to the dibromo triazole shown above (2.5 g, 5.5 mmol) in DMF (25 ml) under a nitrogen atmosphere. The reaction mixture is stirred at 100° C. for 24 h, worked up and chromatographed. Elution with methylene chloride/hexane (1:1) give the desired product A-19 (yield: 1.2 g (43%); mp: 218-220° C.).

reactant | Styrene | 16.5 mmol, 1.72 g | C=CC1=CC=CC=C1 | C8H8
reactant | PPh3 | 0.36 mmol, 0.095 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 14.5 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dibromo triazole | BrC1=C(N=NN1)Br | C2HBr2N3
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.35 mmol, 0.080 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-Phenyl-3,5-bis-[4-styryl-phenyl]-1H-[1,2,4]triazole | C1(=CC=CC=C1)N1N=C(N=C1C1=CC=C(C=C1)C=CC1=CC=CC=C1)C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C36H27N3
